US06034275
A mixture of 0.1 g of (4-bromo-phenyl)-[4-(6-methylamino-hexyloxy)-phenyl]-methanone, 0.13 ml of diisopropylethylamine and 0.06 ml of bromomethyl-cyclopropane in 20 ml of dimethyl-acetamide is stirred at 50° C. for 24 hrs., concentrated and the residue is treated with sodium hydrogen carbonate solution and extracted with methylene chloride. The organic phases are washed with saturated sodium chloride solution, dried and evaporated. The residue is purified over silica gel with CH2Cl2 /MeOH/NH4OH (94/5.410.6 to 85/12.5/2.5). There is obtained 0.68 g of (4-bromo-phenyl)-[4-[6-(cyclopropylmethyl-methyl-amino)-hexyloxy]-phenyl]-methanone which is converted into the fumarate, MS: m/e 443 (M+H+, 1Br).

reactant | (4-bromo-phenyl)-[4-(6-methylamino-hexyloxy)-phenyl]-methanone | 0.1 g | BrC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCCCCCNC | C20H24BrNO2
reactant | diisopropylethylamine | 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromomethyl-cyclopropane | 0.06 ml | BrCC1CC1 | C4H7Br
solvent | dimethyl-acetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | (4-bromo-phenyl)-[4-[6-(cyclopropylmethyl-methyl-amino)-hexyloxy]-phenyl]-methanone | 0.68 g | BrC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCCCCCN(C)CC1CC1 | C24H30BrNO2
